US04400461
All of the 4-methoxycarbonyl-2-nitrotoluene obtained as described above was dissolved in carbon tetrachloride. Approximately 14.2 g (0.082 mole) of N-bromosuccinimide was added to the carbon tetrachloride solution. The resulting solution was heated to reflux temperature and stirred for approximately 64 hours. The solution was cooled and the succinimide was removed by vacuum filtration. The remaining solution was concentrated on a rotary evaporator using water aspirator vacuum. The synthesis produced 24 g of 4-methoxycarbonyl-2-nitrobenzyl bromide. The cholate ester of this product was then prepared as described for the preparation of the esters in Section B. The O,O,O-triacetyl derivative was also prepared as described in Section F.

reactant | 4-methoxycarbonyl-2-nitrotoluene | COC(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H9NO4
reactant | N-bromosuccinimide | 0.082 mole, 14.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-methoxycarbonyl-2-nitrobenzyl bromide | 24 g | COC(=O)C1=CC(=C(CBr)C=C1)[N+](=O)[O-] | C9H8BrNO4
